US07601742B2
20.1 Preparation of 6-chloropyrazine-2-carboxylic acid amide
To a solution of 2,6-dichloropyrazine (50 mg, 0.34 mmol) in DMF (1 mL) was added a solution of potassium cyanide (24 mg, 0.37 mmol) in H2O (1 mL). After stirring for 3 h at 100° C., the reaction mixture was cooled to r.t., poured into H2O (10 mL) and extracted with EtOAc three times. The combined organic layer was dried over MgSO4, filtered and concentrated. The crude product was purified by column chromatography (silica gel, EtOAc:Hexane, 3:7) to give 15 mg of the desired product. Yield: 32%.

reactant | 2,6-dichloropyrazine | 0.34 mmol, 50 mg | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | potassium cyanide | 0.37 mmol, 24 mg | [C-]#N.[K+]
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | H2O | 1 mL | O | H2O
solvent | H2O | 10 mL | O | H2O
product | 6-chloropyrazine-2-carboxylic acid amide | 15 mg, Yield: 32% | ClC1=CN=CC(=N1)C(=O)N | C5H4ClN3O
